US04203909
A. 1-Nitro-2-methylthio-2-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}ethylene
A mixture of 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine (12.86 g, 60 mmole) [prepared by the procedure described in Belgian Pat. No. 857,388] and 1,1-bis(methylthio)-2-nitroethylene (9.91 g, 60 mmole) [prepared according to the procedure described in Chem. Ber., 100, 591 (1967) and Acta Chem. Scand., 21. 2797 (1967)] in acetonitrile (150 ml) was stirred and heated to reflux temperature under a positive pressure of nitrogen for 15.5 hours. The solvent was removed by evaporation under reduced pressure and the crude product placed on silica gel and chromatographed using a gradient elution of methylene chloride-methanol. The appropriate fractions were combined to yield the title compound (12.6 g).

reactant | 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine | 60 mmole, 12.86 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 1,1-bis(methylthio)-2-nitroethylene | 60 mmole, 9.91 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 1-Nitro-2-methylthio-2-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}ethylene | 12.6 g | [N+](=O)([O-])C=C(NCCSCC=1OC(=CC1)CN(C)C)SC | C13H21N3O3S2
